US04053615
1-Ethyl-3-(3-methylphthalimido)piperidine
3-Amino-1-ethylpiperidine and 3-methylphthalic anhydride are reacted in a similar manner so that described in Example 3 to give the title compound.

reactant | 3-Amino-1-ethylpiperidine | NC1CN(CCC1)CC | C7H16N2
reactant | 3-methylphthalic anhydride | CC1=C2C(C(=O)OC2=O)=CC=C1 | C9H6O3
product | 1-Ethyl-3-(3-methylphthalimido)piperidine | C(C)N1CC(CCC1)N1C(C=2C(C1=O)=C(C=CC2)C)=O | C16H20N2O2
